US06706751B2
In analogy to example 7.8, 2-{[4-(2,3-Dihydro-1H-indol-5-yloxy)-butyl]-ethyl amino}-ethanol and chloro-thioformic acid (4-chloro-phenyl)ester were converted to yield 5-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butoxy}-2,3-dihydro-indole-1-carbothioic acid O-(4-chloro-phenyl)ester as yellow viscous oil, MS: 449 (MH+, 1Cl).

reactant | 2-{[4-(2,3-Dihydro-1H-indol-5-yloxy)-butyl]-ethyl amino}-ethanol | N1CCC2=CC(=CC=C12)OCCCCN(CCO)CC | C16H26N2O2
reactant | chloro-thioformic acid (4-chloro-phenyl)ester | ClC1=CC=C(C=C1)OC(=S)Cl | C7H4Cl2OS
product | 5-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butoxy}-2,3-dihydro-indole-1-carbothioic acid O-(4-chloro-phenyl)ester | ClC1=CC=C(C=C1)OC(=S)N1CCC2=CC(=CC=C12)OCCCCN(CCO)CC | C23H29ClN2O3S
